US06506800B2
Preparation of 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-2,5-hexadienyl]-3-phenoxybenzene
A solution of (4E)-3-(4-chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexenyl phenyl sulfoxide (0.318 g, 0.60 mmol) in o-dichlorobenzene (2.4 ml) under nitrogen was heated at 165° C. for 4.5 hours. The solution was cooled to 100° C. and the solvent removed in vacuo. The residue was chromatographed on a preparative thin layer silica gel plate eluting with ethyl acetate:hexane (5:95) to yield the title compound as a pale yellow oil (0.142 g) which was characterized by IR, 1HNMR and mass spectral analysis.

reactant | (4E)-3-(4-chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexenyl phenyl sulfoxide | 0.60 mmol, 0.318 g | C1(=CC=CC=C1)S(=O)CCC(/C(=C(/CC1=CC(=CC=C1)OC1=CC=CC=C1)\F)/F)C1=CC=C(C=C1)Cl | C30H25ClF2O2S
solvent | o-dichlorobenzene | 2.4 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-2,5-hexadienyl]-3-phenoxybenzene | 0.142 g | ClC1=CC=C(C=C1)C(\C(=C(\CC1=CC(=CC=C1)OC1=CC=CC=C1)/F)\F)C=C | C24H19ClF2O
